US04588746
A solution of methyl 2-benzyl-3-dimethylaminopropionate (60.0 g) in ether (300 ml) is added dropwise with stirring under a nitrogen atmosphere to a suspension of lithium aluminum hydride (28.0 g) in ether (700 ml). The reaction mixture is refluxed for 4 hours, then stirred at room temperature for 18 hours. The reaction mixture is cooled to 0°, and water (30 ml) is added cautiously (dropwise initially) followed by 10% NaOH (60 ml). The solid inorganic material is filtered off, and the filtrate dried over magnesium sulfate. The solvent is removed under reduced pressure to give 2-benzyl-3-dimethylaminopropanol as an oil which is used without further purification; NMR(CDCl3): δ7.12 (m, 5H), 5.62 (broad s, 1H), 3.57 (m, 2H).

reactant | methyl 2-benzyl-3-dimethylaminopropionate | 60.0 g | C(C1=CC=CC=C1)C(C(=O)OC)CN(C)C | C13H19NO2
reactant | lithium aluminum hydride | 28.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 30 ml | O | H2O
reactant | NaOH | 60 ml | [OH-].[Na+]
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | ether | 700 ml | CCOCC | C4H10O
product | 2-benzyl-3-dimethylaminopropanol | C(C1=CC=CC=C1)C(CO)CN(C)C | C12H19NO
